US04362728
3-Chloroperbenzoic acid (0.8 g.) was added to a solution of 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-methylthiopyrimidine (0.5 g.) in ethanol (50 ml.) and the solution left at room temperature for 18 hours and then evaporated to dryness. The residue was dissolved in ethyl acetate, the solution washed with aqueous potassium carbonate solution and then dried and evaporated to dryness to give 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-methylsulphinylpyrimidine (0.5 g.) which was used without further purification.

reactant | 3-Chloroperbenzoic acid | 0.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-methylthiopyrimidine | 0.5 g | FC(CN=C(NC1=NC(=NC=C1)SC)N)(F)F | C8H10F3N5S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-methylsulphinylpyrimidine | 0.5 g | FC(CN=C(NC1=NC(=NC=C1)S(=O)C)N)(F)F | C8H10F3N5OS
